US08071807B2
Step 11: {3-Chloro-5-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid
To {3-chloro-5-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.038 g, 0.08 mmol) in THF:H2O:MeOH (2:1:2; 2 mL) was added 1N aqueous lithium hydroxide, and the mixture was stirred at room temperature overnight. The mixture was acidified to pH 5 with 10% aqueous HCl, and extracted with EtOAc. The crude material was purified by preparative HPLC to give the title compound.

reactant | {3-chloro-5-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.08 mmol, 0.038 g | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSCC(F)(F)F)Cl)=O | C23H25ClF3NO4S
reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF H2O MeOH | 2 mL | C1CCOC1.O.CO
product | {3-Chloro-5-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid | ClC=1C=C(C=C(C1)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSCC(F)(F)F)CC(=O)O | C22H23ClF3NO4S
